### PR TITLE
[Merged by Bors] - feat: radical lemmas for natural numbers and integers

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
These are needed as part of a project I'm doing for my PhD under Frank Stephan.

### CODE REVIEW

**Comment by Parcly-Taxel** [comment]
> This is quite a large import change. Maybe we could have `Mathlib.RingTheory.Radical.Basic` with the existing material and `Mathlib.RingTheory.Radical.Int` with the new lemmas?

I had that in mind, but should `Mathlib.RingTheory.Radical.Int` also include the lemmas specific to `Nat`?

**Comment by vihdzp** [comment]
I think the idea is that in your first PR you just move the file entirely, and in a follow-up PR you add `deprecated_module`. That way the diff stays small.

File: Mathlib/RingTheory/Radical/NatInt.lean [hunk 1]
```diff
@@ -0,0 +1,125 @@
...
+
+open UniqueFactorizationMonoid
+
+section Nat
+
+lemma UniqueFactorizationMonoid.primeFactors_eq_natPrimeFactors :
+    primeFactors = Nat.primeFactors := by
+  ext n : 1
+  rw [primeFactors, Nat.factors_eq, Nat.primeFactors]
+  -- this convert is necessary because of the different DecidableEq instances
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/NatInt.lean:44]: Is there a diamond here? And can we fix it?

File: Mathlib/RingTheory/Radical/NatInt.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+  have pp (p) (h : p ∈ n.primeFactors) : 1 ≤ p := pos_of_mem_primeFactors h
+  rw [radical_eq_prod_primeFactors, ← @nonempty_primeFactors n, Finset.one_lt_prod_iff_of_one_le pp]
+  exact ⟨fun ⟨p, h⟩ ↦ ⟨p, h.1⟩, fun ⟨p, h⟩ ↦ ⟨p, h, (mem_primeFactors.mp h).1.one_lt⟩⟩
+
+@[simp] lemma two_le_radical_iff : 2 ≤ radical n ↔ 2 ≤ n := one_lt_radical_iff
+
+@[simp] lemma radical_le_one_iff : radical n ≤ 1 ↔ n ≤ 1 := by
+  simpa only [not_lt] using one_lt_radical_iff.not
+
+@[simp] lemma radical_eq_one_iff : radical n = 1 ↔ n ≤ 1 := by
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/NatInt.lean:66]: Just to be sure, I imagine we already have `radical 0 = 1` and `radical 1 = 1` as `simp` lemmas, right?

File: Mathlib/RingTheory/Radical/NatInt.lean [hunk 3]
```diff
@@ -0,0 +1,125 @@
...
+  rw [← radical_le_one_iff]
+  grind [radical_pos n]
+
+@[simp] lemma radical_le_self_iff : radical n ≤ n ↔ n ≠ 0 :=
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/NatInt.lean:70]: Can we also have `n < radical n ↔ n = 0`?

File: Mathlib/RingTheory/Radical/NatInt.lean [hunk 4]
```diff
@@ -0,0 +1,125 @@
...
+  ⟨by aesop, fun h ↦ Nat.le_of_dvd (by lia) radical_dvd_self⟩
+
+end Nat
+
+end Nat
+
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/NatInt.lean:97]: What about adding a comment to section this off in the docs as well?
```
/-! ### Lemmas about integers -/
```
and likewise for the nat section, ofc.

File: Mathlib/RingTheory/Radical/NatInt.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
...
+    rw [Int.natCast_dvd] at dp
+    exact ⟨p, by simp_all, rfl⟩
+  · simp_rw [Nat.mem_primeFactors, Function.Embedding.toFun_eq_coe, Nat.castEmbedding_apply] at h
+    obtain ⟨n, ⟨pn, dn, -⟩, rfl⟩ := h
+    rw [Int.natCast_dvd, ← Nat.prime_iff_prime_int]
+    exact ⟨pn, by simp, dn⟩
+
+namespace Int
+
+lemma radical_eq_radical_natAbs : radical z = radical z.natAbs := by
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/NatInt.lean]: Backwards and simp?

File: Mathlib/RingTheory/Radical/NatInt.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical/NatInt.lean:44]: This is just code motion, no need to worry about this in this PR.

File: Mathlib/RingTheory/Radical/Basic.lean [hunk 6]
```diff
@@ -58,16 +46,14 @@ This is different from the radical of an ideal.
 
 @[expose] public section
 
-noncomputable section
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/Basic.lean]: Why remove this? Are there other computable definitions in this file?

File: Mathlib/RingTheory/Radical/Basic.lean [hunk 7]
```diff
@@ -58,16 +46,14 @@ This is different from the radical of an ideal.
 
 @[expose] public section
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/Basic.lean]: And assuming you don't remove this `noncomputable section`, you could write
```suggestion
@[expose] public noncomputable section
```
(or is it the other way around?)

File: Mathlib/RingTheory/Radical/NatInt.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical/NatInt.lean:66]: These are `radical_zero` and `radical_one` in the `Basic` file.

File: Mathlib/RingTheory/Radical/Basic.lean (hunk 7 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical/Basic.lean]: All done.

File: Mathlib/RingTheory/Radical/Basic.lean [hunk 8]
```diff
@@ -7,58 +7,44 @@ module
...
-public import Mathlib.RingTheory.Nilpotent.Basic
-public import Mathlib.Data.Nat.PrimeFin
 public import Mathlib.Algebra.Squarefree.Basic
 
 /-!
 # Radical of an element of a unique factorization normalization monoid
 
-This file defines a radical of an element `a` of a unique factorization normalization
-monoid, which is defined as a product of normalized prime factors of `a` without duplication.
+This file defines the radical of an element `a` of a unique factorization normalization
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/Basic.lean]: Maybe?
```suggestion
This file defines the radical of an element `a` in a unique factorization normalization
```

File: Mathlib/RingTheory/Radical/Basic.lean [hunk 9]
```diff
@@ -7,58 +7,44 @@ module
...
-## For natural numbers
-
-- `UniqueFactorizationMonoid.primeFactors_eq_natPrimeFactors`: The prime factors of a natural number
-  are the same as the prime factors defined in `Nat.primeFactors`.
-- `Nat.radical_le_self`: The radical of a natural number is less than or equal to the number itself.
-- `Nat.two_le_radical`: If a natural number is at least 2, then its radical is at least 2.
-
 ## TODO
 
 - Make a comparison with `Ideal.radical`. Especially, for principal ideal,
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/Basic.lean]: Since you're already fixing grammar
```suggestion
- Connect this notion with `Ideal.radical`. Particularly, for a principal ideal,
```

File: Mathlib/RingTheory/Radical/NatInt.lean [hunk 10]
```diff
@@ -0,0 +1,124 @@
...
+
+@[simp] lemma radical_eq_one_iff : radical n = 1 ↔ n ≤ 1 := by
+  rw [← radical_le_one_iff]
+  grind [radical_pos n]
+
+@[simp] lemma radical_le_self_iff : radical n ≤ n ↔ n ≠ 0 :=
+  ⟨by aesop, fun h ↦ Nat.le_of_dvd (by lia) radical_dvd_self⟩
+
+@[simp] lemma self_lt_radical_iff : n < radical n ↔ n = 0 := by
+  simpa only [not_le, not_not] using radical_le_self_iff.not
```
Comment (vihdzp) [inline Mathlib/RingTheory/Radical/NatInt.lean:74]: I think we generally prefer unsqueezed `simp`s unless there's some really bad performance or we're in the middle of a proof. Same above.
```suggestion
  simpa using radical_le_self_iff.not
```

**Review by vihdzp — APPROVED** [review]
LGTM, just some minor style/grammar remarks.

File: Mathlib/RingTheory/Radical/NatInt.lean (hunk 10 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical/NatInt.lean:74]: This doesn't work because the simplification ends up at `True`:
```
Type mismatch: After simplification, term
  Iff.not one_lt_radical_iff
 has type
  True
but is expected to have type
  radical n ≤ 1 ↔ n ≤ 1

Type mismatch: After simplification, term
  Iff.not radical_le_self_iff
 has type
  True
but is expected to have type
  n < radical n ↔ n = 0
```

File: Mathlib/RingTheory/Radical/Basic.lean (hunk 9 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical/Basic.lean]: Done.

File: Mathlib/RingTheory/Radical/Basic.lean (hunk 8 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical/Basic.lean]: Done.

File: Mathlib/RingTheory/Radical/NatInt.lean [hunk 11]
```diff
@@ -79,4 +95,50 @@ end Mathlib.Meta.Positivity
 
 end Nat
 
-end Nat
+/-! ### Lemmas about integers -/
+
+variable {z : ℤ}
+
+lemma UniqueFactorizationMonoid.primeFactors_eq_primeFactors_natAbs :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Radical/NatInt.lean:102]: Is it possible to move this to another file? It doesn't use `radical`.

File: Mathlib/RingTheory/Radical.lean [hunk 12]
```diff
@@ -0,0 +1,5 @@
+module -- shake: keep-all
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Radical.lean:1]: Can you move this to his own PR? I am not 100% it is needed, but why not.

File: Mathlib/RingTheory/Radical/NatInt.lean (hunk 11 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical/NatInt.lean:102]: But it uses `UniqueFactorizationMonoid.primeFactors`, which is defined in the same file as `UniqueFactorizationMonoid.radical`.

File: Mathlib/RingTheory/Radical.lean (hunk 12 above)
Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical.lean:1]: Why do you think this is not needed?

Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical.lean:1]: All right, I'm just going to not include the module deprecation here.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Radical.lean:1]: I mean the move is not needed, not talking about the declaration.

Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Radical.lean:1]: Adding the module deprecation is very cheap after all. I will restore it in this PR.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
